US09315458B2
B) methyl 3-chloro-2-[(methoxycarbonyl)oxy]-4-(trifluoromethyl)benzoate
To a solution of 2-chloro-1-(methoxymethoxy)-3-(trifluoromethyl)benzene (11.8 g) in THF (100 mL) was added dropwise n-butyllithium (2.5M hexane solution) (21.0 mL) at −10° C., and the mixture was stirred for 2 hr. Then, to the reaction mixture was added dropwise a solution of methyl chloroformate (23.0 g) in THF (50.0 mL), and the mixture was stirred at 10° C. for 16 hr. The reaction mixture was poured into saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate (×2). The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (6.00 g).

reactant | 2-chloro-1-(methoxymethoxy)-3-(trifluoromethyl)benzene | 11.8 g | ClC1=C(C=CC=C1C(F)(F)F)OCOC | C9H8ClF3O2
reactant | n-butyllithium | 2.5M, 21.0 mL | C(CCC)[Li]
reactant | methyl chloroformate | 23.0 g | ClC(=O)OC | C2H3ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50.0 mL | C1CCOC1 | C4H8O
product | methyl 3-chloro-2-[(methoxycarbonyl)oxy]-4-(trifluoromethyl)benzoate | 6.00 g | ClC=1C(=C(C(=O)OC)C=CC1C(F)(F)F)OC(=O)OC | C11H8ClF3O5
